US08633319B2
Preparation of (1S,2R,5S)-5-methyl-2-(1-methylethyl)cyclohexyl 2-oxo-3-piperidinecarboxylate
4-Dimethylaminopyridine (0.35 wt), (+)-menthol (0.95 wt) and ethyl 2-oxo-3-piperidinecarboxylate (1 wt) are dissolved/suspended in toluene (10 vol). The mixture is heated to reflux and stirred for seven days with periodic distillation of solvent and replenishment with fresh toluene. The reaction mixture is cooled to 25° C. and washed with two portions of 5% w/w aqueous HCl (4 vol) and then water (4 vol). The organic phase is concentrated under reduced pressure to give the title compound as a colourless oil.

reactant | (+)-menthol | CC1CC[C@@H]([C@H](C1)O)C(C)C | C10H20O
reactant | ethyl 2-oxo-3-piperidinecarboxylate | O=C1NCCCC1C(=O)OCC | C8H13NO3
catalyst | 4-Dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1S,2R,5S)-5-methyl-2-(1-methylethyl)cyclohexyl 2-oxo-3-piperidinecarboxylate | O=C1NCCCC1C(=O)O[C@@H]1[C@H](CC[C@@H](C1)C)C(C)C | C16H27NO3
